US09334246B2
Preparation 8: 2-(tert-butyl)-4,6-dichloro-1,3,5-triazine
Dissolved cyanuric chloride (4.2 g, 22.9 mmol) and CuI (0.22 g, 1.1 mmol) in anhydrous THF (12 mL) and cooled to −10° C. under N2. Added tert-butylmagnesium chloride (1.0M in THF, 25.4 mL) slowly over 20 min. Added saturated NH4Cl (5 mL) and warmed reaction to room temperature. Extracted mixture with CH2Cl2 (4×75 mL). Washed organic layer with water (35 mL) and saturated NaCl (35 mL) then dried (Na2SO4) and concentrated. Purified the product by filtration through a pad of silica gel eluting with CH2Cl2 to give the title compound (1.5 g) as a yellow oil.

reactant | cyanuric chloride | 22.9 mmol, 4.2 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | tert-butylmagnesium chloride | 1.0M, 25.4 mL | C(C)(C)(C)[Mg]Cl
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
catalyst | CuI | 1.1 mmol, 0.22 g | [Cu]I
product | 2-(tert-butyl)-4,6-dichloro-1,3,5-triazine | 1.5 g | C(C)(C)(C)C1=NC(=NC(=N1)Cl)Cl | C7H9Cl2N3
